US05811432
B. 5,6-Dichloro-3-(2-thenoyl)-4-azaoxindole
Pellets of sodium metal (0.29 g, 12.6 mmol) were added to dry ethanol (10 mL) in a dry round-bottomed flask. When dissolution of the sodium was complete, solid 5,6-dichloro-4-azaoxindole (500 mg, 2.46 mmol) was added followed by ethyl 2-thiophenecarboxylate (0.67 mL. 5.0 mmol). The mixture was heated at reflux for one day under nitrogen. The mixture was cooled, poured into ice/water and acidified to pH 3 with 6N HCl solution. The title compound was collected by filtration and dried in vacuo to afford 607 mg (79%).

reactant | sodium | 12.6 mmol, 0.29 g | [Na] | Na
reactant | 5,6-dichloro-4-azaoxindole | 2.46 mmol, 500 mg | ClC=1N=C2CC(NC2=CC1Cl)=O | C7H4Cl2N2O
reactant | ethyl 2-thiophenecarboxylate | 5.0 mmol, 0.67 mL | S1C(=CC=C1)C(=O)OCC | C7H8O2S
reactant | HCl | 6N | Cl | ClH
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 5,6-Dichloro-3-(2-thenoyl)-4-azaoxindole | ClC=1N=C2C(C(NC2=CC1Cl)=O)C(C1=CC=CS1)=O | C12H6Cl2N2O2S
